US07429579B2
3-Acetyl-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine
To a stirred solution of sodium sulphite (1.60 g, 12.6 mmol) and sodium hydrogen carbonate (1.14 g, 13.56 mmol) in water (25 ml) was added 3-acetyl-7-chlorosulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine (2.6 g, 9.04 mmol) in tetrahydrofuran (10 ml). The reaction mixture was then heated at 75° C. for 2 h, cooled to 30° C. and methyl iodide (2.8 ml, 45.20 mmol) added. After stirring at 50° C. for 24 h, the reaction mixture was cooled to room temperature and partitioned between water (50 ml) and ethyl acetate (100 ml). The aqueous layer was then separated and further extracted with ethyl acetate (2×80 ml). The combined organics were then dried (Na2SO4) and the solvent removed in vacuo to give the title compound (1.77 g, 73%) as a pale yellow solid.

reactant | sodium sulphite | 12.6 mmol, 1.60 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 13.56 mmol, 1.14 g | C(O)([O-])=O.[Na+]
reactant | 3-acetyl-7-chlorosulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 9.04 mmol, 2.6 g | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)Cl | C12H14ClNO3S
reactant | methyl iodide | 45.20 mmol, 2.8 ml | CI | CH3I
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Acetyl-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.77 g, 73% | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)C | C13H17NO3S
